US06544985B2
8-Dimethylamino-2-[3-(5-hydroxymethyl-[1,2,3]triazol-1-yl)-phenyl]-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepine-7-carbonitrile
The title compound was prepared from (RS)-[4-cyano-5-dimethylamino-2-(3-oxo-3-{3-[5(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionylamino)-phenyl]-carbamic acid tert-butyl ester (Example M82) (0.35 g, 0.58 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a yellow solid (149 mg, 64%).

reactant | (RS)-[4-cyano-5-dimethylamino-2-(3-oxo-3-{3-[5(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionylamino)-phenyl]-carbamic acid tert-butyl ester | 0.58 mmol, 0.35 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)C#N)NC(CC(C1=CC(=CC=C1)N1N=NC=C1COC1OCCCC1)=O)=O)=O | C31H37N7O6
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-Dimethylamino-2-[3-(5-hydroxymethyl-[1,2,3]triazol-1-yl)-phenyl]-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepine-7-carbonitrile | CN(C=1C(=CC2=C(N=C(CC(N2)=O)C2=CC(=CC=C2)N2N=NC=C2CO)C1)C#N)C | C21H19N7O2
